US06010851
The transphosphorylation activity was measured under the following condition using inosine as a substrate. The reaction was performed at pH 5.0 at 30° C. for 10 minutes in a reaction solution (1 ml) containing 40 μmol/ml of inosine, 100 μmol/ml of sodium pyrophosphate, 100 μmol/ml of sodium acetate buffer (pH 5.0), and an enzyme. The reaction was stopped by adding 200 μl of 2 N hydrochloric acid. After that, precipitates were removed by centrifugation. Then, 5'-Inosinic acid produced by the transphosphorylation reaction was quantitatively measured. An amount of enzyme to produce 1 μmol of 5'-inosinic acid per 1 minute under this standard reaction condition was defined as 1 unit.

reactant | inosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
reactant | inosine | 40 μmol/ml | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
reactant | sodium pyrophosphate | 100 μmol/ml | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium acetate | 100 μmol/ml, pH 5.0 | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 2 N, 200 μl | Cl | ClH
product | 5'-Inosinic acid | [C@@H]1([C@H](O)[C@H](O)[C@@H](COP(=O)(O)O)O1)N1C=NC=2C(O)=NC=NC12 | C10H13N4O8P
